US07482374B2
2-(1-Azetidinylmethyl)-1H-imidazole
To a mixture of 2-imidazolecarboxaldehyde (3.0 g) and azetidine hydrochloride (3.21 g) in anhydrous tetrahydrofuran (180 ml) was added sodium triacetoxyborohydride (9.99 g) followed by glacial acetic acid (1.72 ml). The resultant mixture was stirred at room temperature for 22 h, after which the insoluble material was filtered and washed with ethyl acetate. The filtrate was concentrated under reduced pressure and the residue purified using silica SPE (eluting with DCM, methanol, methanol:20% aqueous ammonia) to give the title compound (2.63 g) as a beige solid.

reactant | 2-imidazolecarboxaldehyde | 3.0 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | azetidine hydrochloride | 3.21 g | Cl.N1CCC1
reactant | sodium triacetoxyborohydride | 9.99 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.72 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 2-(1-Azetidinylmethyl)-1H-imidazole | 2.63 g | N1(CCC1)CC=1NC=CN1 | C7H11N3
